US04447618
To a stirred solution containing 45.1 g (0.2 mol) of 3-(carboxymethyl) benzothiazoline-2-thione in 600 ml of methyl alcohol, 142.0 g (1.0 mol) of boron trifluoride ether complex was added in one portion. An exothermic reaction set in causing a temperature rise from 20° to 37° C. The stirred solution was heated at reflux for 24 hours and then cooled to 0° C. After cooling, 1400 ml of 10% aqueous sodium bicarbonate was slowly added (foaming observed) at 0°-10° C. until pH 8 was obtained. After stirring at 0°-10° C. for one hour, the solid was collected by filtration, washed with water until neutral to litmus and air-dried at 25°-30° C. The product, 2-thioxo-3(2H)-benzothiazoleacetic acid, methyl ester was obtained in 94% yield, m.p. 127°-128° C.

reactant | 3-(carboxymethyl) benzothiazoline-2-thione | 0.2 mol, 45.1 g | C(=O)(O)CN1C(SC2=C1C=CC=C2)=S | C9H7NO2S2
reactant | sodium bicarbonate | 1400 ml | C([O-])(O)=O.[Na+]
solvent | methyl alcohol | 600 ml | CO | CH4O
product | 2-thioxo-3(2H)-benzothiazoleacetic acid, methyl ester | 94% yield | S=C1SC2=C(N1CC(=O)OC)C=CC=C2 | C10H9NO2S2
